US04360680
3-Amino-1-(p-methoxyphenyl)-5-phenyl-2-pyrazoline
A 4.42 g. amount of sodium metal is dissolved in 300 ml. of absolute ethanol, then 27.8 g. of p-methoxyphenylhydrazine hydrochloride is added followed in 5 minutes by 20.64 g. of cinnamonitrile. The reaction mixture is refluxed for 7 hours, then is evaporated to dryness in vacuo. Water is added to the residue to give a sludge. The mixture is filtered and the residue is evaporated to dryness. The solid is dissolved in dichloromethane and crystallized as described in Example 16 to give 4.75 g. of the desired product as colorless needles, m.p. 163.5°-166° C.

reactant | sodium | [Na] | Na
reactant | p-methoxyphenylhydrazine hydrochloride | Cl.COC1=CC=C(C=C1)NN
reactant | cinnamonitrile | C(C=CC1=CC=CC=C1)#N | C9H7N
solvent | ethanol | C(C)O | C2H6O
product | 3-Amino-1-(p-methoxyphenyl)-5-phenyl-2-pyrazoline | NC1=NN(C(C1)C1=CC=CC=C1)C1=CC=C(C=C1)OC | C16H17N3O
